US04692393
(1) Synthesis of 2,3-dimethylbenzoxazolium iodide
A reaction of 26.6 g (0.2 mole) of 2-methylbenzoxazole and 34.6 g (0.24 mole) of methyl iodide was made in a sealed tube at 90° C. for a couple of hours. The resulted solid matters were pulverized and were then washed with acetone, so that the objective matter was obtained. The yield thereof was 50.4 g (91%).

reactant | 2-methylbenzoxazole | 0.2 mole, 26.6 g | CC=1OC2=C(N1)C=CC=C2 | C8H7NO
reactant | methyl iodide | 0.24 mole, 34.6 g | CI | CH3I
product | 2,3-dimethylbenzoxazolium iodide | [I-].CC=1OC2=C([N+]1C)C=CC=C2 | InChI=1S/C9H10NO.HI/c1-7-10(2)8-5-3-4-6-9(8)11-7;/h3-6H,1-2H3;1H/q+1;/p-1
